US08097628B2
p-Toluenesulfonic acid (5.53 mg, 0.032 mmol) was added to a mixture of 5-chloro-6-methyl-3-pyridinecarbaldehyde (for a synthesis see WO20006/137485 A1 Example 256) (250 mg, 1.607 mmol), ethylene glycol (179 μl, 3.21 mmol), and toluene (8 ml) and the mixture was heated under reflux as water was azeotropically removed (Dean-Stark). The progression was monitored by TLC (50% hexane:EtOAc) and HPLC. More ethylene glycol (180 μl) and TsOH (3 mg) were added and after 46 hr full conversion was observed by HPLC. 10% Na2CO3 and EtOAc were added. Extraction, drying (MgSO4), and filtration afforded 3-chloro-5-(1,3-dioxolan-2-yl)-2-methylpyridine (274.3 mg, 86%) pure enough to be used in the next step.

reactant | p-Toluenesulfonic acid | 0.032 mmol, 5.53 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | 5-chloro-6-methyl-3-pyridinecarbaldehyde | ClC=1C=C(C=NC1C)C=O | C7H6ClNO
reactant | ethylene glycol | 3.21 mmol, 179 μl | C(CO)O | C2H6O2
reactant | toluene | 8 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 3-chloro-5-(1,3-dioxolan-2-yl)-2-methylpyridine | 274.3 mg, 86% | ClC=1C(=NC=C(C1)C1OCCO1)C | C9H10ClNO2
